US09399077B2
To a magnetically stirred solution of cycloheptene (500 mg, 5.20 mmol, 1 eq) in dry Pentane (52 ml) under Ar atmosphere, tBuOK (671 mg, 5.98 mmol, 1.15 eq) was added. Suspension was cooled to 0° C. and CHBr3 (466 μl, 5.20 mmol, 1 eq) was added in a time period of six hours. Then the solution was warmed to Room Temperature (RT) and the resulting dark-brown solution was stirred overnight at RT. Reaction was controlled by TLC (Hexane as eluent) and was quenched with water (10 ml) and concentrated HCl until neutralization. Layers were separated and the aqueous layer was extracted with pentane (3×50 ml). Combined organic phases were dried over Na2SO4, filtered and concentrated under vacuum to obtain product 8,8-dibromobicyclo[5.1.0]octane as a brown oil that was used for the next step without further purification.

reactant | cycloheptene | 5.20 mmol, 500 mg, 1 eq | C1=CCCCCC1 | C7H12
reactant | tBuOK | 5.98 mmol, 671 mg, 1.15 eq | C(C)(C)(C)O[K]
reactant | CHBr3 | 5.20 mmol, 466 μl, 1 eq | C(Br)(Br)Br | CHBr3
reactant | Hexane | CCCCCC | C6H14
solvent | Pentane | 52 ml | CCCCC | C5H12
product | 8,8-dibromobicyclo[5.1.0]octane | BrC1(C2CCCCCC12)Br | C8H12Br2
